US07491735B2
To a solution of 4-[(4-bromo-phenyl)-(6-methyl-pyridin-2-yloxy)-methyl]-piperidine-1-carboxylic acid tert-butyl ester (2.00 g, 4.33 mmol) and zinc cyanide (305 mg, 2.60 mmol) in DMF (20 mL) under nitrogen was added DPPF (48 mg, 0.087 mmol) and Pd2(dba)3 (40 mg, 0.043 mmol). The resulting suspension was warmed to 130° C. and stirred for 5 hours. Standard work-up and purification gave 4-[(4-cyano-phenyl)-(6-methyl-pyridin-2-yloxy)-methyl]-piperidine-1-carboxylic acid tert-butyl ester (1.4 g, 79%) as a yellow solid.

reactant | 4-[(4-bromo-phenyl)-(6-methyl-pyridin-2-yloxy)-methyl]-piperidine-1-carboxylic acid tert-butyl ester | 4.33 mmol, 2.00 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(OC1=NC(=CC=C1)C)C1=CC=C(C=C1)Br | C23H29BrN2O3
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 2.60 mmol, 305 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | DPPF | 0.087 mmol, 48 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
catalyst | Pd2(dba)3 | 0.043 mmol, 40 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-[(4-cyano-phenyl)-(6-methyl-pyridin-2-yloxy)-methyl]-piperidine-1-carboxylic acid tert-butyl ester | 1.4 g, 79% | C(C)(C)(C)OC(=O)N1CCC(CC1)C(OC1=NC(=CC=C1)C)C1=CC=C(C=C1)C#N | C24H29N3O3
